US08030489B2
To a mixture of methyl 3-acetyl-1H-indole-6-carboxylate (0.92 g) and DMF (18 ml) was added sodium hydride (0.18 g) under ice-cooling, followed by stirring at room temperature for 0.5 hour. Next, methyl iodide (0.29 ml) was added thereto under ice-cooling, followed by stirring at room temperature for 5 hours. Then, water was added thereto under ice-cooling, followed by stirring at room temperature. The solid precipitated was collected by filtration, washed with water, and purified by silica gel column chromatography (hexane/THF=2:1→chloroform /THF=9:1) to obtain methyl 3-acetyl-1-methyl-1H-indole-6-carboxylate (0.98 g).

reactant | methyl 3-acetyl-1H-indole-6-carboxylate | 0.92 g | C(C)(=O)C1=CNC2=CC(=CC=C12)C(=O)OC | C12H11NO3
reactant | DMF | 18 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | methyl iodide | 0.29 ml | CI | CH3I
solvent | water | O | H2O
product | methyl 3-acetyl-1-methyl-1H-indole-6-carboxylate | 0.98 g | C(C)(=O)C1=CN(C2=CC(=CC=C12)C(=O)OC)C | C13H13NO3
